US09023846B2
To a solution of 4-chloro-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-ylamine (317 mg, 0.998 mmol, prepared as described in the Example 1) in MeOH (5 mL) was added NaOMe (1.99 mL, 0.998 mmol, 0.5 M solution in MeOH). The resulting mixture was stirred at 70° C. overnight. The reaction mixture was then diluted with water (20 mL) and extracted with EtOAc (3×10 mL). The organic layers were combined, dried (MgSO4) and concentrated. The resulting residue was purified on silica 0:100-50:50 EtOAc-hexanes to yield 4-methoxy-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-ylamine. 1H-NMR (400 MHz, CDCl3) δ: 7.78 (d, J=7.8 Hz, 1H), 7.61-7.67 (m, 1H), 7.54-7.60 (m, 1H), 7.50 (d, J=7.6 Hz, 1H), 6.46 (s, 1H), 6.27 (br. s., 2H), 3.97 (s, 3H).

reactant | 4-chloro-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-ylamine | ClC1=C(C(=NC(=C1)C1=C(C=CC=C1)C(F)(F)F)N)[N+](=O)[O-] | C12H7ClF3N3O2
reactant | NaOMe | 0.998 mmol, 0.5 M, 1.99 mL | C[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 4-methoxy-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-ylamine | COC1=C(C(=NC(=C1)C1=C(C=CC=C1)C(F)(F)F)N)[N+](=O)[O-] | C13H10F3N3O3
